US07572809B2
(1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (100 mg), 4-amino-benzonitrile (85 mg), Cs2CO3 (376 mg), 2,2′-Bis(diphenylphosphino)-1′1-binaphthyl (BINAP) (44 mg), Pd(OAc)2 (8 mg), 1,4-dioxane (2 ml), N-methyl-pyrrolidone (NMP) (0.2 ml), were placed in a microwave bottle. The mixture was heated at 150° C. for 30 minutes under microwave irradiation and purified by preparative LC-MS to give 4-[6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ylamino]-benzonitrile. LC-MS m/e 371 (MH+). 1H NMR(DMSO): δ 2.26(s, 3H), δ 3.86(s, 3H), δ 5.75(s, 1H), δ 6.52(m, 1H), δ 6.79(d, 1H), δ 7.12(s, 1H), δ 7.65(d, 2H), δ 8.20(m, 3H), δ 8.65(s,1H), δ 9.30(s, 1H), δ 11.75(s,1H).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 100 mg | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | 4-amino-benzonitrile | 85 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | Cs2CO3 | 376 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | N-methyl-pyrrolidone | 0.2 ml | CN1C(CCC1)=O | C5H9NO
product | 4-[6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ylamino]-benzonitrile | COC=1C=C2C=C(N=C(C2=CC1)NC1=CC=C(C#N)C=C1)NC1=NNC(=C1)C | C21H18N6O
